US08808703B2
Step 4: (R)-3-((R)-2-amino-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate
To a solution of (R)-3-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate (1 eq) was added 20% piperidine (50 eq) in acetonitrile. The resulting mixture was stirred at 25° C. until the starting material disappeared. To the mixture was added toluene and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 100% EtOAc then 0-10% MeOH/DCM to give the product as a colorless oil.

reactant | (R)-3-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | 1 eq | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NCCC1=CC=C(C=C1)OCCCP(=O)(OCC)OCC)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)OC(CCCCCCCCCCC)=O | C60H91N2O11PS
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-3-((R)-2-amino-3-(4-(3-(diethoxyphosphoryl)propoxy)phenethylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NCCC1=CC=C(C=C1)OCCCP(=O)(OCC)OCC)N)OC(CCCCCCCCCCC)=O | C45H81N2O9PS
